US09169259B2
A mixture of 6-fluoropyridin-2-amine (0.5 g, 4.46 mmol), 3,3-dimethylpyrrolidine hydrochloride (0.73 g, 5.35 mmol) and Et3N (1.08 g, 10.7 mmol) in water (0.2 mL) was heated to 205° C. for 0.5 h in a sealed tube in a microwave oven then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200-300 mesh, ethyl acetate:petroleum ether=1:15) to afford 6-(3,3-dimethylpyrrolidin-1-yl)pyridin-2-amine (0.67 g, 78%) as a yellow oil. LC-MS: [M+1]+=192, tR=1.187 min.

reactant | 6-fluoropyridin-2-amine | 4.46 mmol, 0.5 g | FC1=CC=CC(=N1)N | C5H5FN2
reactant | 3,3-dimethylpyrrolidine hydrochloride | 5.35 mmol, 0.73 g | Cl.CC1(CNCC1)C
reactant | Et3N | 10.7 mmol, 1.08 g | CCN(CC)CC | C6H15N
solvent | water | 0.2 mL | O | H2O
product | 6-(3,3-dimethylpyrrolidin-1-yl)pyridin-2-amine | 0.67 g, 78% | CC1(CN(CC1)C1=CC=CC(=N1)N)C | C11H17N3
